US06762315B1
Preparation of 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylic acid
32.4 g of 4′-iodobiphenyl-4-carboxylic acid are introduced together with 25.8 g of glycol ester of 4-n-pentoxyphenylboronic acid and 15.9 g of sodium carbonate into 300 ml of ethylene glycol and, while stirring vigorously, 18 mg of PdCl2 and 26.6 mg of PPh3 are added, and the mixture is stirred at 80° C. for 6 hours. The hot reaction mixture is cautiously poured into a mixture of 30 g of 37% strength sulfuric acid and 200 g of water, and the mixture is heated at 90-100° C. for 30 minutes. After filtration and washing with water, the crude product is dried at 80° C./100 mbar and then recrystallized from dimethylacetamide. This affords after drying 24.1 g (67%) of 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylic acid with a purity of <99%.

reactant | 4′-iodobiphenyl-4-carboxylic acid | 32.4 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9IO2
reactant | 4-n-pentoxyphenylboronic acid | C(CCCC)OC1=CC=C(C=C1)B(O)O | C11H17BO3
reactant | sodium carbonate | 15.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | PPh3 | 26.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | PdCl2 | 18 mg | Cl[Pd]Cl
solvent | water | 200 g | O | H2O
solvent | ethylene glycol | 300 ml | C(CO)O | C2H6O2
product | 4″-n-pentoxy-[1,1′:4′,1″]-terphenyl-4-carboxylic acid | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H24O3
